US05977075
To a solution of 1-amino-1-cyclopropanecarboxylic acid (1.0 g, 10 mmol) in 80 mL of dioxane is added 1N NaOH (10 mL, 10 mmol) and di-t-butyldicarbonate (2.18 g, 10 mmol). The reaction mixture is stirred overnight, then concentrated. The residue is dissolved in water and washed with ethyl acetate. The aqueous layer is acidified with 1N HCl, saturated with NaCl and extracted with ethyl acetate. The organic layer is evaporated to dryness giving N-t-butoxycarbonyl-1-aminocyclopropane-1-carboxylic acid. To a solution of 1,1'-carbonyldiimidazole (1.62 g) in 20 mL of THF is added N-t-butoxycarbonyl-1-amino-1-cyclopropane carboxylic acid (91.71 g, 10 mmol) in 20 mL of THF. The mixture is stirred for 30 minutes, then refluxed 30 minutes. The reaction is cooled to room temperature. N-n-Butane sulfonylamide and 1,8-diazabicyclo [5.4.0] undec-7-ene (1.5 mL, 10 mmol) in 5 mL of THF are added. The mixture is stirred at room temperature overnight, and poured into 1N HCl. The product is extracted with ethyl acetate. The organic layer is washed with brine, dried over MgSO4 and concentrated. The residue is triturated with ether giving 1-(t-butoxycarbonylamino)-cyclopropane-1-N-(n-butyl sulfonyl)carboxamide. Treatment with acid under standard conditions to remove the N-t-butoxycarbonyl group yields 1-aminocyclopropane-1-N-(n-butanesulfonyl)carboxamide hydrochloride.

reactant | 1-amino-1-cyclopropanecarboxylic acid | 10 mmol, 1.0 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | NaOH | 10 mmol, 1N, 10 mL | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 10 mmol, 2.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | N-t-butoxycarbonyl-1-aminocyclopropane-1-carboxylic acid | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
